* source LF_GEN
X_M3         N17266 N17574 0 IRFP460
X_TX6    N17266 N17866 N17848 0 SCHEMATIC1_TX6 
V_V7         N17606 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
X_Q6         0 N17368 N17406 awb2n3906 PARAMS:                                 
+            
R_R24         N18326 N18162  1k TC=0,0 
R_R15         N17606 N17368  1k TC=0,0 
X_TX5    N18246 0 N17568 0 SCHEMATIC1_TX5 
C_C14         N18326 N18162  22n  TC=0,0 
R_R19         N17836 N17842  2M TC=0,0 
X_Q7         N18278 N18162 N18216 awb2n3904 PARAMS:                            
+                 
R_R22         0 N17866  150k TC=0,0 
R_R23         N17266 N18076  10k TC=0,0 
C_C13         0 N17866  2.2u  TC=0,0 
R_R18         N17842 N17848  2M TC=0,0 
V_V9         N18326 0  
+PULSE 0V 15V 30usec 0 0 2usec 20usec
R_R17         N17574 N17568  10 TC=0,0 
C_C12         N17866 N17914  2.2u  TC=0,0 
C_C11         0 N17468  47u  TC=0,0 
R_R20         0 N17836  10k TC=0,0 
X_Q8         0 N18162 N18216 awb2n3906 PARAMS:                                 
+            
V_V6         N17468 0 DC 15V  
X_M4         N17914 N18076 N17266 IRFP460
X_TX4    N17436 0 N18546 N17266 SCHEMATIC1_TX4 
C_C9         N17606 N17368  22n  TC=0,0 
V_V8         N18278 0 DC 15V  
V_V10         N17914 0 DC 220V  
R_R25         N18076 N18546  10 TC=0,0 
C_C16         0 N18278  47u  TC=0,0 
X_Q5         N17468 N17368 N17406 awb2n3904 PARAMS:                            
+                 
R_R16         0 N17574  10k TC=0,0 
R_R21         N17866 N17914  150k TC=0,0 
D_D7         N18076 N215871 D1N4740A 
D_D6         N17266 N215871 D1N4744A 
D_D8         0 N216631 D1N4744A 
D_D9         N17574 N216631 D1N4740A 
X_C21         N17406 N17436 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
X_C22         N18216 N18246 awbcapacitor PARAMS: CAP=10U C1=10N C2=2 C3=111
+  ESL=100U RESL=10 ESR=11 RP=12M TC=100 TC1_ESR=10 TC2_ESR=10
R_R33         0 N64784  150k TC=0,0 
R_R29         N64760 N64766  2M TC=0,0 
V_V14         N65224 0  
+PULSE 0V 15V 30usec 0 0 2usec 20usec
X_TX9    N64202 N64784 N64766 0 SCHEMATIC1_TX9 
X_Q9         N66232 N64290 0 awb2n3904 PARAMS:                                 
+            
R_R26         N64524 N64290  1k TC=0,0 
R_R36         N64994 N65444  10 TC=0,0 
V_V12         N64524 0  
+PULSE 0V 15V 20usec 0 0 2usec 20usec
V_V13         N65144 0 DC 15V  
R_R34         N64202 N64994  10k TC=0,0 
X_Q11         N66798 N65080 0 awb2n3904 PARAMS:                                
+             
R_R28         N64492 N64486  10 TC=0,0 
R_R35         N65224 N65080  1k TC=0,0 
C_C28         0 N64784  2.2u  TC=0,0 
V_V15         N64832 0 DC 20V  
R_R31         0 N64754  10k TC=0,0 
X_TX8    N65144 N66798 N64486 0 SCHEMATIC1_TX8 
R_R27         0 N64492  10k TC=0,0 
R_R30         N64754 N64760  2M TC=0,0 
X_M5         N64202 N64492 0 IRFP460
D_D11         N64994 N655541 D1N4740A 
X_TX7    N64394 N66232 N65444 N64202 SCHEMATIC1_TX7 
D_D12         0 N656041 D1N4744A 
C_C27         N64784 N64832  2.2u  TC=0,0 
X_M6         N64832 N64994 N64202 IRFP460
D_D10         N64202 N655541 D1N4744A 
V_V11         N64394 0 DC 15V  
D_D13         N64492 N656041 D1N4740A 
R_R32         N64784 N64832  150k TC=0,0 
R_R37         0 N64290  10k TC=0,0 
R_R38         0 N65080  10k TC=0,0 
C_C29         0 N64394  47u  TC=0,0 
C_C30         0 N65144  47u  TC=0,0 
R_R39         N700931 N66232  150 TC=0,0 
C_C31         0 N700931  10u  TC=0,0 

.subckt SCHEMATIC1_TX6 1 2 3 4  
K_TX6         L1_TX6 L2_TX6 1
L1_TX6         1 2 1000uH
L2_TX6         3 4 5000uH
.ends SCHEMATIC1_TX6

.subckt SCHEMATIC1_TX5 1 2 3 4  
K_TX5         L1_TX5 L2_TX5 1
L1_TX5         1 2 1000uH
L2_TX5         3 4 2000uH
.ends SCHEMATIC1_TX5

.subckt SCHEMATIC1_TX4 1 2 3 4  
K_TX4         L1_TX4 L2_TX4 1
L1_TX4         1 2 1000uH
L2_TX4         3 4 2000uH
.ends SCHEMATIC1_TX4

.subckt SCHEMATIC1_TX9 1 2 3 4  
K_TX9         L1_TX9 L2_TX9 1
L1_TX9         1 2 1000uH
L2_TX9         3 4 5000uH
.ends SCHEMATIC1_TX9

.subckt SCHEMATIC1_TX8 1 2 3 4  
K_TX8         L1_TX8 L2_TX8 1
L1_TX8         1 2 10uH
L2_TX8         3 4 20uH
.ends SCHEMATIC1_TX8

.subckt SCHEMATIC1_TX7 1 2 3 4  
K_TX7         L1_TX7 L2_TX7 1
L1_TX7         1 2 20uH
L2_TX7         3 4 20uH
.ends SCHEMATIC1_TX7
